US06573286B1
To a mixture of 2-(4-bromo-2-methylphenyl)-1-methyl-2-oxoethyl acetate (5.0 g, 17.5 mmol) and KOAc (2.75 g, 28.0 mmol) in EtOH (90 mL) was added methoxylamine hydrochloride (2.34 g, 28.0 mmol) and the resulting milky suspension was stirred at 70° C. for 4 h. An additional 0.5 equivalents of KOAc and methoxylamine hydrochloride were added and the reaction mixture was stirred at 70° C. for 8 h. The reaction mixture was diluted with water, and the EtOH was removed under reduced pressure. The aqueous residue was extracted with diethyl ether (2×75 mL), and the ether extracts were combined, washed with aq. NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated in vacuo to give 2-(4-bromo-2-methylphenyl)-2-(methoxyimino)-1-methylethyl acetate (5.0 g, 91%) as a racemic mixture of the E- and Z-methoxime isomers as a gold oil.

reactant | 2-(4-bromo-2-methylphenyl)-1-methyl-2-oxoethyl acetate | 17.5 mmol, 5.0 g | C(C)(=O)OC(C(=O)C1=C(C=C(C=C1)Br)C)C | C12H13BrO3
reactant | KOAc | 28.0 mmol, 2.75 g | CC(=O)[O-].[K+]
reactant | methoxylamine hydrochloride | 28.0 mmol, 2.34 g | Cl.O(C)N
reactant | KOAc | 0.5 equivalents | CC(=O)[O-].[K+]
solvent | EtOH | 90 mL | CCO | C2H6O
solvent | water | O | H2O
product | 2-(4-bromo-2-methylphenyl)-2-(methoxyimino)-1-methylethyl acetate | 5.0 g, 91% | C(C)(=O)OC(C(=NOC)C1=C(C=C(C=C1)Br)C)C | C13H16BrNO3
